US09212182B2
A RBF was charged with 3′-chloro-3-fluoro-5-methoxy-1,1′-biphenyl (577.6 mg, 2.441 mmol) and THF (8135 μl) to give a clear solution. The flask was cooled in a dry ice-acetone bath for 10 min, then n-butyllithium (1.8M in hexanes) (1627 μl, 2.93 mmol) was added dropwise. After 30 min, a solution of iodine (929 mg, 3.66 mmol) in THF (3 mL) was added dropwise. TLC after 5 min showed conversion to a slightly lower spot. The mixture was diluted with saturated aq. sodium thiosulfate solution and warmed to room temperature. The mixture was diluted with water and extracted with EtOAc (2×), and the combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (25-g Ultra SNAP column, 0-5% EtOAc/Heptane) to give 3′-chloro-3-fluoro-4-iodo-5-methoxy-1,1′-biphenyl (687 mg, 1.895 mmol, 78% yield) as an off-white solid. 1 H NMR (400 MHz, DMSO-d6) □=7.87 (td, J=1.0, 1.8 Hz, 1 H), 7.74 (td, J=1.8, 7.0 Hz, 1 H), 7.55-7.43 (m, 2 H), 7.25 (dd, J=1.8, 9.1 Hz, 1 H), 7.14-7.07 (m, 1 H), 3.97 (s, 3 H).

reactant | 3′-chloro-3-fluoro-5-methoxy-1,1′-biphenyl | 2.441 mmol, 577.6 mg | ClC=1C=C(C=CC1)C1=CC(=CC(=C1)OC)F | C13H10ClFO
reactant | n-butyllithium | 2.93 mmol, 1.8M, 1627 μl | C(CCC)[Li]
reactant | iodine | 3.66 mmol, 929 mg | II | I2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
solvent | THF | 8135 μl | C1CCOC1 | C4H8O
product | 3′-chloro-3-fluoro-4-iodo-5-methoxy-1,1′-biphenyl | 1.895 mmol, 687 mg, 78% yield | ClC=1C=C(C=CC1)C1=CC(=C(C(=C1)OC)I)F | C13H9ClFIO
